US08445490B2
Tert-butyl (4-(4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)butyl)carbamate (3.0 g, 4.21 mmol) was stirred in TFA/DCM (1:1) solution (20 mL) for 1 h. The solution was concentrated under vacuum to give N-(4-aminobutyl)-4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamide which was carried to the next step without purification.

reactant | Tert-butyl (4-(4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)butyl)carbamate | 4.21 mmol, 3.0 g | BrCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)NCCCCNC(OC(C)(C)C)=O)C=C2)C=C1 | C30H37BrF3N7O5
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-(4-aminobutyl)-4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamide | NCCCCNC(C1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC1=CC=C(C=C1)OCCBr)OCC(F)(F)F)=O | C25H29BrF3N7O3
